US05656648
F) 1-(2,4-Dimethoxyphenyl)-3-phenyl-1-propanone
A solution of 45.5 g of 3-phenylpropanoyl chloride in 50 ml of CCl4 is added dropwise to a suspension of 43.2 g of AlCl3 and 37.5 g of 1,3-dimethoxybenzene in 210 ml of CCl4. The reaction mixture is left stirring for 1 hour at r.t. and poured into a mixture of 400 g of ice and 150 ml of concentrated HCl. After 30 minutes of stirring, the resulting mixture is extracted with DCM, the combined organic phases are washed with saturated sodium hydrogen carbonate solution and dried over sodium sulphate and the solvents are evaporated off under vacuum. 66.5 g of oil of the expected product are obtained, which oil is used as it is.

reactant | 3-phenylpropanoyl chloride | 45.5 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | AlCl3 | 43.2 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1,3-dimethoxybenzene | 37.5 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | HCl | 150 ml | Cl | ClH
solvent | CCl4 | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 210 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(2,4-Dimethoxyphenyl)-3-phenyl-1-propanone | 66.5 g | COC1=C(C=CC(=C1)OC)C(CCC1=CC=CC=C1)=O | C17H18O3
